US08580762B2
Stage 3: 3-[(5-tert-butyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl)methyl]-N-methoxy-N-methylcyclobutane-1-carboxamide
To a solution of 3-[(5-tert-butyl-1H-1,3-benzodiazol-2-yl)methyl]-N-methoxy-N-methylcyclobutane-1-carboxamide (80%, 2.02 g, 4.91 mmol) in N,N-dimethylformamide (40 ml) under N2 was added potassium carbonate (1.36 g, 9.81 mmol) and the reaction was stirred for 1 h. 2-(Trimethylsilyl)ethoxymethyl chloride (1.31 ml, 7.36 mmol) was added slowly, and stirring maintained for 20 h. The reaction mixture was filtered and concentrated under reduced pressure. The residue was taken up in EtOAc (50 ml) and washed with water (3×50 ml), then brine (50 ml) before being dried (MgSO4) and concentrated. The crude material was purified by silica flash column chromatography, eluting with 50-100% EtOAc in heptane to afford the title compound (1.21 g, 54%) as a colourless gum: MS (ESI+) for C25H41N3O3Si m/z 461.0 [M+H]+; LC purity 97% (UV), 100% (ELS), (ret. time, 1.98 min); 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.58-7.89 (m, 1 H), 7.33 (s, 2 H), 5.39-5.53 (m, 2 H), 3.65 (s, 3 H), 3.49-3.58 (m, 2 H), 3.41 (br. s., 1 H), 3.10-3.23 (m, 3 H), 3.03 (s, 3 H), 2.32-2.63 (m, 2 H), 2.00-2.18 (m, 2 H), 1.32-1.45 (m, 9 H), 0.91 (td, J=8.1, 4.9 Hz, 2 H), −0.13-0.07 (m, 9 H).

reactant | 3-[(5-tert-butyl-1H-1,3-benzodiazol-2-yl)methyl]-N-methoxy-N-methylcyclobutane-1-carboxamide | 4.91 mmol, 2.02 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CC2CC(C2)C(=O)N(C)OC)C=C1 | C19H27N3O2
reactant | potassium carbonate | 9.81 mmol, 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 7.36 mmol, 1.31 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-[(5-tert-butyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl)methyl]-N-methoxy-N-methylcyclobutane-1-carboxamide | 1.21 g, 54% | C(C)(C)(C)C1=CC2=C(N(C(=N2)CC2CC(C2)C(=O)N(C)OC)COCC[Si](C)(C)C)C=C1 | C25H41N3O3Si
